.subckt two_stage_opamp inp inn out
+ Av=6.0 Rc=1.59Meg Cc=10n Rout=1 
+ VR=10
+ Gm=10m Imax=1m

  B1 0 na i={Imax*tanh(Gm*(v(inp) - v(inn))/Imax)}
  Rc na 0 {Rc}
  Cc na 0 {Cc}

  B2 nb 0   v={vr*tanh(Av*v(na)/vr)}

  Rout nb out {Rout}
.ends
